US09079878B2
2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl {4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-yl}acetate
Prepared by Method F using {4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-yl}acetic acid (0.259 g, 1.00 mmol) and 2-bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone (0.283 g, 1.00 mmol). The reaction was stirred at 50° C. for 50 minutes. The residue was isolated as a crude oil that crystallised to afford the title compound as a solid (0.485 g, 105% yield).

reactant | {4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-yl}acetic acid | 1.00 mmol, 0.259 g | C(C)(C)(C)OC(=O)NC1(CCOCC1)CC(=O)O | C12H21NO5
reactant | 2-bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone | 1.00 mmol, 0.283 g | BrCC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H6BrF3O2
product | 2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl {4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-yl}acetate | 0.485 g, 105% yield | C(C)(C)(C)OC(=O)NC1(CCOCC1)CC(=O)OCC(C1=CC=C(C=C1)OC(F)(F)F)=O | C21H26F3NO7
